US08247562B2
4-Iodo-2-methylthiopyrimidine
4-Chloro-2-methylthiopyrimidine (5 g, 31.15 mmol) was added dropwise to a cooled 57% aqueous hydriodic acid solution (0° C.). Stirring was continued at 0° C. for 30 minutes, before warming to ambient temperature and stirring for 24 hours. Aqueous sodium bicarbonate was then carefully added and the resultant suspension basified to pH 9 by addition of sodium carbonate. The mixture was extracted with ethyl acetate and the extracts dried over magnesium sulfate and concentrated by reduced pressure. The resultant solid was dissolved in boiling isohexane and cooled by refridgeration overnight. The resultant solid was filtered and dried to afford the title compound as colourless needles (5.4 g, 69%); NMR Spectrum: (CDCl3) 2.55 (s, 3H), 7.40 (d, 1H), 7.98 (d, 1H); Mass Spectrum: M+H+ 253.

reactant | 4-Chloro-2-methylthiopyrimidine | 31.15 mmol, 5 g | ClC1=NC(=NC=C1)SC | C5H5ClN2S
reactant | hydriodic acid | I | HI
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
product | 4-Iodo-2-methylthiopyrimidine | 5.4 g, 69% | IC1=NC(=NC=C1)SC | C5H5IN2S
